US07700589B2
1f) (R)-2-tert-butoxycarbonylamino-3-(3,4-diethyl-phenyl)-propionic acid
A mixture of 4.0 g (18.1 mmol) of (R)-2-amino-3-(3,4-diethyl-phenyl)-propionic acid, 4.2 g (39.2 mmol) of Na2CO3, 100 mL of water and 25 mL of THF was combined with 5.0 g (22.2 mmol) of di-tert.-butyldicarbonate, dissolved in 25 mL of THF, while cooling with ice. It was stirred for 30 min while cooling with ice and for 3 h at RT. The organic phase was separated off and the aqueous phase was repeatedly extracted with diethyl ether. The combined organic phases were extracted with 15% K2CO3 solution, the combined aqueous phases were acidified with 1 M KHSO4 solution and exhaustively extracted with EtOAc. The combined organic extracts were dried over MgSO4 and evaporated down under reduced pressure. The desired product was obtained in the form of a colourless oil.

reactant | (R)-2-amino-3-(3,4-diethyl-phenyl)-propionic acid | 18.1 mmol, 4.0 g | N[C@@H](C(=O)O)CC1=CC(=C(C=C1)CC)CC | C13H19NO2
reactant | Na2CO3 | 39.2 mmol, 4.2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 100 mL | O | H2O
reactant | di-tert.-butyldicarbonate | 22.2 mmol, 5.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (R)-2-tert-butoxycarbonylamino-3-(3,4-diethyl-phenyl)-propionic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC(=C(C=C1)CC)CC | C18H27NO4
